US09403835B2
Step 2: 3-(2-carboxy-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester
A solution of sodium chlorite (120 mg; 1.32 mmol; 5 eq.) and sodium dihydrogenphosphate (127 mg; 1.06 mmol; 4 eq.) in water (2 mL) was added dropwise to a mixture of 2-methyl-2-butene (0.25 mL) and 3-(2-formyl-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (95 mg; 0.26 mmol; 1 eq.) in 1,4-dioxane (2 mL). The reaction mixture was stirred at room temperature for 3 hours and the 1,4-dioxane concentrated in vacuo. The aqueous solution was diluted with water and the pH made acidic with 0.1M HCl. The mixture was extracted with EA (2×) and the combined organic phase was dried over magnesium sulfate and concentrated in vacuo to afford the title compound (100 mg, quantitative) as a colourless oil. HPLC (max plot) 93.5%, Rt 4.22 min. UPLC/MS: (MS−) 374.3 ([M−H]−).

reactant | sodium chlorite | 1.32 mmol, 120 mg, 5 eq. | Cl(=O)[O-].[Na+]
reactant | sodium dihydrogenphosphate | 1.06 mmol, 127 mg, 4 eq. | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.25 mL | CC(C)=CC | C5H10
reactant | 3-(2-formyl-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.26 mmol, 95 mg, 1 eq. | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)OC1=C(C=CC=C1)C=O | C17H20F3NO4
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-(2-carboxy-phenoxy)-3-trifluoromethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(=O)N1CC(CC1)(C(F)(F)F)OC1=C(C=CC=C1)C(=O)O | C17H20F3NO5
